US09353075B2
Step 7. Preparation of 5-phenylpentyl-N-[(2R*,3R*)-2-ethyl-4-oxo-oxetan-3-yl]-carbamate
Under nitrogen atmosphere, to a stirred mixture of (2R*,3R*)-3-hydroxy-2-(5-phenylpentoxy-carbonylamino)-pentanoic acid and (2R*,3S*)-3-hydroxy-2-(5-phenylpentoxy-carbonylamino)-pentanoic acid (0.155 g, 0.48 mmol) in dry CH2Cl2, (20.0 mL), at 0° C., Et3N (0.2 mL, 1.44 mmol) and subsequently TBTU (0.185 g, 0.58 mmol) were added. The mixture was left stirring at 0° C. for 1 h and at rt for 15 h. The organics were then removed under reduced pressure, and the resulting crude product purified by column chromatography, using a Teledyne ISCO apparatus, eluting with Cy:AcOEt (from 100:0 to 80:20) to afford the title compound (0.075 g, 57%), as pure anti diastereoisomer, as white solid. MS (ESI) m/z: 323 [M−NH4]+; (ESI) m/z: 304 [M−H]−. 1H NMR (DMSO-d6) δ 0.90 (t, J=7.41 Hz, 3H), 1.26-1.38 (m, 2H), 1.58 (p, J=7.71, 8.27 Hz, 4H), 1.67-1.90 (m, 2H), 2.57 (t, J=7.65 Hz, 2H), 3.98 (t, J=6.60 Hz, 2H), 4.51 (td, J=4.28, 6.84 Hz, 1H), 4.69 (dd, J=4.32, 8.12 Hz, 1H), 7.09-7.32 (m, 5H), 8.06 (d, J=8.09 Hz, 1H).

reactant | (2R*,3R*)-3-hydroxy-2-(5-phenylpentoxy-carbonylamino)-pentanoic acid | O[C@@H]([C@H](C(=O)O)NC(=O)OCCCCCC1=CC=CC=C1)CC | C17H25NO5
reactant | (2R*,3S*)-3-hydroxy-2-(5-phenylpentoxy-carbonylamino)-pentanoic acid | 0.48 mmol, 0.155 g | O[C@H]([C@H](C(=O)O)NC(=O)OCCCCCC1=CC=CC=C1)CC | C17H25NO5
reactant | Et3N | 1.44 mmol, 0.2 mL | CCN(CC)CC | C6H15N
reactant | TBTU | 0.58 mmol, 0.185 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | CH2Cl2 | 20.0 mL | C(Cl)Cl | CH2Cl2
product | 5-phenylpentyl-N-[(2R*,3R*)-2-ethyl-4-oxo-oxetan-3-yl]-carbamate | 0.075 g, 57% | C1(=CC=CC=C1)CCCCCOC(N[C@@H]1[C@H](OC1=O)CC)=O | C17H23NO4
